US07888354B2
(3) Preparation of [1-(3-fluoro-4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazol-4-yl](morpholin-4-yl)methanone
To a solution of (2R)-1-[3-(4-bromo-2-fluorophenoxy)propyl]-2-methylpyrrolidine obtained in Example 62-(2) (0.72 g) and morpholin-4-yl(1H-pyrazol-4-yl)methanone (0.45 g) in N,N-dimethylformamide (3 mL), cesium carbonate (1.6 g), copper iodide (0.1 g) and (1R,2R)-N,N′-dimethylcyclohexane-1,2-diamine (0.36 mL) were added and the mixture was heated to 130° C., at which it was stirred for 6 hours. The reaction mixture was cooled to room temperature and filtered to remove insoluble materials, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluting solvent: chloroform:methanol=11:1 to 3:1) and NH-type silica gel column chromatography (eluting solvent: chloroform:methanol=10:0 to 100:1) to give the titled compound (0.34 g, 36%) as a colorless solid.

reactant | (2R)-1-[3-(4-bromo-2-fluorophenoxy)propyl]-2-methylpyrrolidine | BrC1=CC(=C(OCCCN2[C@@H](CCC2)C)C=C1)F | C14H19BrFNO
reactant | morpholin-4-yl(1H-pyrazol-4-yl)methanone | 0.45 g | N1(CCOCC1)C(=O)C=1C=NNC1 | C8H11N3O2
reactant | cesium carbonate | 1.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (1R,2R)-N,N′-dimethylcyclohexane-1,2-diamine | 0.36 mL | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | copper iodide | 0.1 g | [Cu](I)I
product | [1-(3-fluoro-4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazol-4-yl](morpholin-4-yl)methanone | 0.34 g, 36% | FC=1C=C(C=CC1OCCCN1[C@@H](CCC1)C)N1N=CC(=C1)C(=O)N1CCOCC1 | C22H29FN4O3
